US08685969B2
A sealed pressure tube containing 4-(3-amino-2-methylphenyl)-7-(2-methoxyethoxy)-3-methyl-9H-pyrido[3,4-b]indole-1-carboxamide (0.364 g, 0.9 mmol), 1H-benzo[d][1,3]oxazine-2,4-dione (0.367 g, 2.250 mmol), trimethoxymethane (0.887 ml, 8.10 mmol) and lanthanum nitrate hexahydrate (0.117 g, 0.270 mmol) in tetrahydrofuran (Volume: 4.50 ml) was heated at 95° C. overnight. The reaction was cooled to room temperature, diluted with EtOAc (100 mL) and water (30 mL); the insolubles were filtered, and the layers were separated. The organic layer was washed with water (30 mL) and brine (30 mL), dried over MgSO4, filtered and concentrated in vacuo. The residue was purified by flash chromatography using an ISCO 40 g column eluting with 30-100% EtOAc/hexane (solid loading). Appropriate fractions were collected and concentrated in vacuo to give impure product It was diluted with MeOH (3 mL) and DMSO (0.1 mL) and subjected to autoprep HPLC. The appropriate fractions were collected; NaHCO3 (solid) was added, and the fractions were concentrated in vacuo not to dryness. It was extracted with CH2Cl2 (3×); the organic layers were combined, dried over Na2SO4, filtered and concentrated in vacuo to give 7-(2-methoxyethoxy)-3-methyl-4-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-9H-pyrido[3,4-b]indole-1-carboxamide (0.0372 g, 0.070 mmol, 7.75% yield) as a light tan solid, LC/MS (M+H)=534.18; 1H NMR (500 MHz, DMSO-d6) (recognizable peaks for the major atropoisomer) δ ppm 11.44 (d, J=5.8 Hz, 1H), 8.46 (s, 1H), 8.24 (ddd, J=7.9, 3.3, 1.2 Hz, 1H), 8.12-8.17 (m, 1H), 7.85-7.93 (m 1H), 7.79 (dd, J=7.9, 2.6 Hz, 1H), 7.71 (br d, J=2.5 Hz, 1H), 7.51-7.68 (m, 2H), 7.46 (br ddd, J=7.1, 5.3, 1.4 Hz, 1H), 7.28 (d, J=2.2 Hz, 1H), 6.83 (d, J=8.9 Hz, 1 H), 6.59-6.70 (m, 2H), 4.10-4.16 (m, 2H), 3.69 (br q, J=4.7 Hz, 2H), 3.33 (s, 3H), 2.42 (s, 3H), 1.70 (s, 3H).

reactant | 4-(3-amino-2-methylphenyl)-7-(2-methoxyethoxy)-3-methyl-9H-pyrido[3,4-b]indole-1-carboxamide | 0.9 mmol, 0.364 g | NC=1C(=C(C=CC1)C1=C(N=C(C=2NC3=CC(=CC=C3C21)OCCOC)C(=O)N)C)C | C23H24N4O3
reactant | 1H-benzo[d][1,3]oxazine-2,4-dione | 2.250 mmol, 0.367 g | N1C(OC(C2=C1C=CC=C2)=O)=O | C8H5NO3
reactant | trimethoxymethane | 8.10 mmol, 0.887 ml | COC(OC)OC | C4H10O3
reactant | lanthanum nitrate hexahydrate | 0.270 mmol, 0.117 g | O.O.O.O.O.O.[N+](=O)([O-])[O-].[La+3].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
solvent | tetrahydrofuran | 4.50 ml | O1CCCC1 | C4H8O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | water | 30 mL | O | H2O
solvent | MeOH | 3 mL | CO | CH4O
solvent | DMSO | 0.1 mL | CS(=O)C | C2H6OS
product | 7-(2-methoxyethoxy)-3-methyl-4-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.070 mmol, 0.0372 g, 7.75% yield | COCCOC1=CC=C2C3=C(NC2=C1)C(=NC(=C3C3=C(C(=CC=C3)N3C=NC1=CC=CC=C1C3=O)C)C)C(=O)N | C31H27N5O4
